US06903120B2
Trifluoro-methanesulfonic acid 3-(1-propyl-piperidin-4-yl)-phenyl ester
Beginning with 3-(1-propyl-piperidin-4-yl)-phenol and triflic anhydride MS m/z (rel. intensity, 70 eV) 351 (M+, 4), 322 (65), 189 (30), 131 (20), 69 (bp).

reactant | 3-(1-propyl-piperidin-4-yl)-phenol | C(CC)N1CCC(CC1)C=1C=C(C=CC1)O | C14H21NO
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 3-(1-propyl-piperidin-4-yl)-phenyl ester | C(CC)N1CCC(CC1)C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C15H20F3NO3S
